US06410592B1
A: 6,7-Dihydroxy-3,4-dihydro-2H-naphthalene-1-one
A mixture of 6,7-dimethoxy-3,4-dihydro-2H-naphthalene-1-one (15.0 g) and 48% aqueous hydrobromic acid (60 cm3) was heated under reflux for 18 h. Upon cooling to room temperature, water (100 cm3) was added and the resulting aqueous mass was extracted with ethyl acetate (3×100 cm3). The combined extracts were dried (Na2SO4), filtered and evaporated to dryness to leave a brown powder. This was recrystallised from acetonitrile to afford the title compound (9.4 g) as a red powder.

reactant | 6,7-dimethoxy-3,4-dihydro-2H-naphthalene-1-one | 15.0 g | COC=1C=C2CCCC(C2=CC1OC)=O | C12H14O3
reactant | hydrobromic acid | 60 cm3 | Br | BrH
solvent | water | 100 cm3 | O | H2O
product | 6,7-Dihydroxy-3,4-dihydro-2H-naphthalene-1-one | 9.4 g | OC=1C=C2CCCC(C2=CC1O)=O | C10H10O3
